US06974815B2
3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one (3.0 g) (0.0066 mol) in DMF (50 ml) was carefully dropped on a suspension of NaH 60% (0.32 g) (1.2 eq) in DMF (20 ml) at RT. The reaction mixture was stirred 1 h at RT then methyl iodide (0.6 ml) (1.5 eq) was added. After one night, the reaction mixture was partitioned between water and tBuOMe. The obtained precipitate was filtered, washed with water and tBuOMe, and dried to give 3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-3-methyl-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one (1.8 g) as a white solid. 1H NMR (CDCl3): 7.39 (2H, d), 7.10 (1H, m), 7.0 (2H, d), 6.77 (2H, m), 4.90 (1H, m), 3.0 (3H, s), 2.95 (2H, s), 2.5-2.2 (2H, m), 2.2-1.9 (3H, m), 1.8-1.6 (1H, m).

reactant | 3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one | 0.0066 mol, 3.0 g | BrC1=CC=C(CC23C(N(C(N2)=O)C2=CC(=CC(=C2)Cl)Cl)=CCCC3)C=C1 | C20H17BrCl2N2O
reactant | NaH | 0.32 g, 1.2 eq | [H-].[Na+]
reactant | methyl iodide | 0.6 ml, 1.5 eq | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-3-methyl-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one | 1.8 g | BrC1=CC=C(CC23C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=CCCC3)C=C1 | C21H19BrCl2N2O
